US05364614
(a) 1-Dibenzylamino-5-hydroxy-3-oxapentane
A mixture of 50 g (475.56 mmol) of 2-(2-amino-ethoxy) ethanol and 144.6 g (1.046 mol) of potassium carbonate in 600 ml of EtOH/60 ml of water is heated to 60° C. To this mixture is added dropwise within one hour 178.95 g (1.046 mol) of benzyl bromide and then the mixture is refluxed for 2 hours, evaporated under vacuum, the residue taken up with 1 liter of methylene chloride, and filtered off from the salts. The filtrate is concentrated under vacuum and purified by flash chromatography (silica gel/mobile phase: methylene chloride/hexane/acetone: 10/5/1).

reactant | 2-(2-amino-ethoxy) ethanol | 475.56 mmol, 50 g | NCCOCCO | C4H11NO2
reactant | potassium carbonate | 1.046 mol, 144.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | benzyl bromide | 1.046 mol, 178.95 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | EtOH | 600 ml | CCO | C2H6O
product | 1-Dibenzylamino-5-hydroxy-3-oxapentane | C(C1=CC=CC=C1)N(CCOCCO)CC1=CC=CC=C1 | C18H23NO2
